US05180742
3N Sodium hydroxide (9 ml) was added to a solution of 1.20 g (2.73 mmole) of ethyl 7-(2,5-dimethoxy-3,4,6-trimethylphenyl)-2,2-dimethyl-7-phenylheptanoate in ethanol (12 ml), followed by stirring at 90° C. overnight (15 hours). After cooling by standing at room temperature, the ethanol was distilled off under reduced pressure, and the residue was made acid by adding a 10% aqueous phosphoric acid solution, followed by extraction of the product with isopropyl ether. The isopropyl ether layer was washed with aqueous sodium hydrochloride solution, dried (magnesium suflate) and evaporated to give 1.11 q (99%) of 7-(2,5-dimethoxy-3,4,6-trimethylphenyl)-2,2-dimethyl-7-phenylheptanoic acid. Its typical physical properties and nuclear magnetic resonance spectrum data are shown in Table 14.

reactant | Sodium hydroxide | 3N, 9 ml | [OH-].[Na+]
reactant | ethyl 7-(2,5-dimethoxy-3,4,6-trimethylphenyl)-2,2-dimethyl-7-phenylheptanoate | 2.73 mmole, 1.20 g | COC1=C(C(=C(C(=C1C)C)OC)C)C(CCCCC(C(=O)OCC)(C)C)C1=CC=CC=C1 | C28H40O4
solvent | ethanol | 12 ml | C(C)O | C2H6O
product | 7-(2,5-dimethoxy-3,4,6-trimethylphenyl)-2,2-dimethyl-7-phenylheptanoic acid | 99% | COC1=C(C(=C(C(=C1C)C)OC)C)C(CCCCC(C(=O)O)(C)C)C1=CC=CC=C1 | C26H36O4
